US06835732B2
4-Methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-yl-amine
To a suspension of 2-amino-4-methoxy-benzothiazole-7-carbaldehyde (440 mg, 2.1 mmol) in THF (100 ml) was added morpholine (276 mg, 3.2 mmol), acetic acid (190 mg, 3.2 mmol) followed by NaBH(OAc)3 (672 mg, 3.2 mmol). This mixture was stirred vigorously at 20° C. for 48 hours, after which time water (50 ml) and 5% NaHCO3 solution (50 ml) were added and the mixture agitated vigorously. After separating the organic and aqueous layers, the aqueous phase was extracted with EtOAc (50 ml) and the combined organic phase was washed with saturated NaCl solution (100 ml) then dried with Na2SO4, filtered and evaporated. The solid residue was suspended in ether (20 ml) and filtered then the filter cake was washed with ether (10 ml), and dried under vacuum (0.05 mmHg, 50° C.) to afford the title compound as a yellow solid (430 mg, 73% yield), MS: m/e=280.2 (M+).

reactant | 2-amino-4-methoxy-benzothiazole-7-carbaldehyde | 2.1 mmol, 440 mg | NC=1SC2=C(N1)C(=CC=C2C=O)OC | C9H8N2O2S
reactant | morpholine | 3.2 mmol, 276 mg | N1CCOCC1 | C4H9NO
reactant | acetic acid | 3.2 mmol, 190 mg | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 3.2 mmol, 672 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 4-Methoxy-7-morpholin-4-ylmethyl-benzothiazol-2-yl-amine | 430 mg, 73% yield | COC1=CC=C(C2=C1N=C(S2)N)CN2CCOCC2 | C13H17N3O2S
